US04072688
Preparation of 2-m-nitrophenyl-3-dichloroacetyl oxazolidine.
Five and eight tenths grams of 2-m-nitrophenyl oxazolidine was dissolved in 50 ml. methylene chloride containing 3.5 g. of triethylamine. Dichloroacetyl chloride 4.4 g. was added dropwise with stirring to the reaction flask and cooled in a water bath at room temperature. When addition was complete, the mixture was stirred at room temperature for about 30 minutes, washed with water, separated and dried over anhydrous magnesium sulfate. The solvent was stripped off under vacuum. There was obtained a yield of 8.6 g. of the title compound, ND30 = 1.5590.

reactant | 2-m-nitrophenyl oxazolidine | [N+](=O)([O-])C=1C=C(C=CC1)C1OCCN1 | C9H10N2O3
reactant | methylene chloride | 3.5 g | C(Cl)Cl | CH2Cl2
reactant | Dichloroacetyl chloride | 4.4 g | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-m-nitrophenyl-3-dichloroacetyl oxazolidine | [N+](=O)([O-])C=1C=C(C=CC1)C1OCCN1C(C(Cl)Cl)=O | C11H10Cl2N2O4
